US07482340B2
4-Chloromethylbenzoic acid methyl ester (1.66 g), 1-methylpiperazine (1.8 g) and sodium iodide (0.67 g) were added into acetone (50 ml). The reaction mixture was stirred at 60° C. for 9 hours. More 1-methylpiperazine (0.9 g) and sodium iodide (0.34 g) were added and after stirring additional 1½ hours at 60° C. the reaction mixture was allowed to cool into room temperature. The mixture was filtered and acetone was evaporated. The residue was dissolved in ethyl acetate and washed with water. The solvent was dried with NaSO4 and evaporated to yield 4-(4-methyl-piperazin-1-ylmethyl)benzoic acid methyl ester. 1H NMR (300 MHz, d6-DMSO) δ: 2.18 (s, 3H), 2.37 (bs, 8H), 3.53 (s, 2H), 3.84 (s, 3H), 7.44 (d, 2H, J 8.1 Hz), 7.91 (d, 2H, J 8.2 Hz).

reactant | 4-Chloromethylbenzoic acid methyl ester | 1.66 g | COC(C1=CC=C(C=C1)CCl)=O | C9H9ClO2
reactant | 1-methylpiperazine | 1.8 g | CN1CCNCC1 | C5H12N2
reactant | sodium iodide | 0.67 g | [I-].[Na+]
reactant | 1-methylpiperazine | 0.9 g | CN1CCNCC1 | C5H12N2
reactant | sodium iodide | 0.34 g | [I-].[Na+]
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 4-(4-methyl-piperazin-1-ylmethyl)benzoic acid methyl ester | COC(C1=CC=C(C=C1)CN1CCN(CC1)C)=O | C14H20N2O2
